US04772606
2-Amino-9-[(2-thienyl)methyl]-6-chloropurine
A mixture of 2-amino-6-chloropurine (Aldrich Chemical Co.) (7.47 g; 0.44 mol), potassium carbonate (6.64 g; 0.048 mol), and 3-thenylbromide (see U.S. Pat. No. 3,746,724) (7.8 g; 0.044 mol) in DMF (200 ml) was stirred under nitrogen at room temperature for 48 hours. The mixture was filtered and the filtrate evaporated to dryness under vacuum, ethyl ether was added and the precipitate was collected by filtration to give a mixture of 7- and 9-substituted chloropurines. A sample of pure 9 isomer was prepared by chromatography on silica gel with 5% methanol/methylene chloride as the eluting solvent to separate it from the 7-isomer. Analytical sample was obtained by crystallization from acetonemethanol mixture, yield 2.36 g, mp softens at 185° C. (dec) and then melts at 203°-204° C. (dec).

reactant | 2-amino-6-chloropurine | 0.44 mol, 7.47 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 0.048 mol, 6.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-thenylbromide | C1=C(C=CS1)CBr | C5H5BrS
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-Amino-9-[(2-thienyl)methyl]-6-chloropurine | NC1=NC(=C2N=CN(C2=N1)CC=1SC=CC1)Cl | C10H8ClN5S
